US08207167B2
3-(4-Bromophenylsulfonamido)-2-methylbenzoic acid (ABD882d)
The title compound was prepared using a method analogous to Method A, using 4-bromobenzene sulfonyl chloride, 3-amino-2-methylbenzoic acid, and a large excess of pyridine. The title compound was precipitated on partition of the reaction mixture between dilute HCl and DCM. The precipitate was collected by filtration, dissolved in ethyl acetate and dried. Evaporation of the solvent gave the title compound as a pale brown solid.

reactant | 4-bromobenzene sulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 3-amino-2-methylbenzoic acid | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4-Bromophenylsulfonamido)-2-methylbenzoic acid | BrC1=CC=C(C=C1)S(=O)(=O)NC=1C(=C(C(=O)O)C=CC1)C | C14H12BrNO4S
